US07618985B2
The crude 5-bromo-6-hydroxy-2H-isoquinolin-1-one (93 mg) was mixed with (R)-3-methanesulphonyloxypiperidine-1-carboxylic acid tert-butyl ester (500 mg, 4.3 mol eq), potassium carbonate (700 mg, 12 mol eq) and N, N-dimethylformamide (2 ml). The mixture was microwaved at 150° C. for 20 minutes. Water was added to the mixture and the crude product extracted out into ethyl acetate. The organic phase was washed with brine and dried (MgSO4). The organics were concentrated in vacuo then purified by prep-HPLC. Dichloromethane and trifluoroacetic acid (3:1, 2 ml) were added and the mixture stirred for 1 h then concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column using methanol and eluted with 2M ammonia in methanol to afford (S)-5-bromo-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one. The residue was purified by prep-HPLC (1.8 mg), El-MS: m/z=323.5 and 323.5 [M+H]+

reactant | 5-bromo-6-hydroxy-2H-isoquinolin-1-one | 93 mg | BrC1=C2C=CNC(C2=CC=C1O)=O | C9H6BrNO2
reactant | (R)-3-methanesulphonyloxypiperidine-1-carboxylic acid tert-butyl ester | 4.3 mol, 500 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)OS(=O)(=O)C | C11H21NO5S
reactant | potassium carbonate | 12 mol, 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N, N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | (S)-5-bromo-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one | BrC1=C2C=CNC(C2=CC=C1O[C@@H]1CNCCC1)=O | C14H15BrN2O2
